US06380230B1
A) 5-(N-Boc-amino)-2-methoxy-4-methylpyridine
41.7 ml of 1.6M n-butyllithium in hexane and 7.7 g of TMEDA are added, under nitrogen, to 5 g of 5-(N-Boc-amino)-2-methoxypyridine, at −60° C. The medium turns yellow. The mixture is left stirring for 4 hours, allowing the temperature to return to −10° C., and a pale yellow. precipitate forms. The mixture is recooled to −40° C. and 4.7 g of methyl iodide are then added. The medium is allowed to return to RT and is then poured into water and extracted with EtOAc, and the extracts are dried and evaporated. The residue is chromatographed on silica, eluting with cyclohexane/EtOAc (85/15; v/v).

reactant | n-butyllithium | 1.6M, 41.7 ml | C(CCC)[Li]
reactant | TMEDA | 7.7 g | CN(C)CCN(C)C | C6H16N2
reactant | 5-(N-Boc-amino)-2-methoxypyridine | 5 g | C(=O)(OC(C)(C)C)NC=1C=CC(=NC1)OC | C11H16N2O3
reactant | methyl iodide | 4.7 g | CI | CH3I
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 5-(N-Boc-amino)-2-methoxy-4-methylpyridine | C(=O)(OC(C)(C)C)NC=1C(=CC(=NC1)OC)C | C12H18N2O3
